data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C(F)(F)F.[OH2:10].CCCC=C(C1=C(C=CC(=C1)Br)O)N2CCCC2C3=NN=NN3.CCCC(C(C1=CC=C(C=C1)[N+](=O)[O-])[O-])C(=[N+]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.CCCC(=C(C1=C(C=CC(=C1)Br)O)N2CCCC2C3=NN=NN3)C(C4=CC=C(C=C4)[N+](=O)[O-])O.C1=CC(=CC=C1C=O)[N+](=O)[O-]>>[H:20][OH2+:10].C(=O)(C(F)(F)F)[O-:21].CCCC=C(C1=C(C=CC(=C1)Br)O)N2CCCC2C3=NN=NN3.CCCC(C(C1=CC=C(C=C1)[N+](=O)[O-])[O-])C(=[N+]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.CCCC(=C(C1=C(C=CC(=C1)Br)O)N2CCCC2C3=NN=NN3)C(C4=CC=C(C=C4)[N+](=O)[O-])O.C1=CC(=CC=C1C=O)[N+](=O)[O-] 10=20;20,21=21
[CH:11]1=[CH:10]OC=C1C#N.O[S+:20](=O)=O>>C1=C([CH+:11][CH:10](O1)[S:20](=O)(=O)O)C#N 10,11=10,20
[H:20][C:21]1(C=CC=C[C+:22]1CC=C)C(C)CC2=CC=CC=C2.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(CC1=CC=CC=C1)[C:21]2=[C:22](C=CC=C2)CC=C 10=20;20,21=21,22
[B:20]([O+](C)C1=CC=C(C=C1)CCC)(Br)Br.[Br-:10]>>[B-:20]([O+](C)C1=CC=C(C=C1)CCC)(Br)(Br)[Br:10] 10=20,
CC1(CC(C(=O)C=C1)(C)C[CH+:20][C:10](C)(O)[Si-:11](C)(C)(C)OC(=O)C2=CC(=CC=C2)Cl)C>>C[C:10](=[CH:20]CC1(CC(C=CC1=O)(C)C)C)O.C[Si:11](C)(C)OC(=O)C1=CC(=CC=C1)Cl 10,11=10,20
C[OH+:11][CH:10]1CC2C3CC4=C(C2(CCN3)C=C1O)C(=C(C=C4)OC)O>>C[OH:11].COC1=C(C2=C(CC3C4C2(CCN3)C=C([CH+:10]C4)O)C=C1)O 10,11=11
[H:20][N+:21](C)(CC1=CC=CC=C1)C(C)(CC(=O)OC)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(CC(=O)OC)([N:21](C)CC1=CC=CC=C1)O 10=20;20,21=21
CCOC(=O)C(C[C:20](C)([NH:10]C)[OH2+:21])C(=O)C.CN.O>>CCOC(=O)C(C[C:20](=[NH+:10]C)C)C(=O)C.[OH2:21].CN.O 10=20;20,21=21
[H:20][CH2:21][CH:22](C)[N+:23](C)(C)C.[OH-:10]>>[H:20][OH:10].C[CH:22]=[CH2:21].C[N:23](C)C 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1=CC=C(C=C1)[N+](=O)[O-].CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC4CC(=O)N(C4)C>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC4CC(=O)N(C4)C)OCC.C1=CC(=CC=C1C(=O)[O-:21])[N+](=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)[NH:10]C>>[H:20][NH+:10](C)C(C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CS(=[O:10])C.C=C[CH2:20][Br:21]>>CS(=[O+:10][CH2:20]C=C)C.[Br-:21] 10=20;20,21=21
[H:20][Br:21].C=CC[O-:10]>>[H:20][O:10]CC=C.[Br-:21] 10=20;20,21=21
[H:20][O+:21]=C(CCC=O)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])CCC=O 10=20;20,21=21
C[CH:20]=[NH2+:21].[F-:10]>>C[CH:20]([NH2:21])[F:10] 10=20;20,21=21
CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.C1OC2=CC(=C(C=C2O1)I)CC[NH2:10].CC[NH+](CC)CC.[Cl-]>>CC1=CC=C(C=C1)[S:20](=O)([NH2+:10]CCC2=C(C=C3C(=C2)OCO3)I)([O-:21])Cl.CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC[N+](CC)(CC)[K-:10][C:11]#N.CC(=O)OC1=CC(=O)CC(C1)(C)C>>CC[N+](CC)(CC)[K:10].[C-:11]#N.CC(=O)OC1=CC(=O)CC(C1)(C)C 10,11=11
[H:20][OH:21].CC1C(=O)CCC2(C1(CCCC2)[O-:10])C>>[H:20][O:10]C12CCCCC1(CCC(=O)C2C)C.[OH-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C#N)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C[CH:22]=[C:21]2[N+](=O)[O-])C(=C1)C#N 10=20;20,21=21,22
[Li-:10]([NH+:11](C(C)C)C(C)C)N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C>>[Li:10]N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C.CC(C)[NH:11]C(C)C 10,11=11
C[P:10](C)C.[Mg+:20]Br>>C[P+:10](C)(C)[Mg:20]Br 10=20,
C[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1.[N+:20](=O)=[O:21]>>C[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21]1=[C:22](C(=CC=C1)C)[Cl:23].[NH2-:10]>>[H:20][NH2:10].CC1=CC=C[C:21]#[C:22]1.[Cl-:23] 10=20;22,23=23;20,21=21,22
CCN(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC([C:20]3=[O:21])C(C4=[N:10]CCCN4)C(=O)C5=CC=C(C=C5)OC>>CCN(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC4[C:20]3([N+:10]5=C(NCCC5)C4C(=O)C6=CC=C(C=C6)OC)[O-:21] 10=20;20,21=21
[H:23][Si-:24]([CH2:32][CH3:33])([CH2:34][CH3:35])([CH2:36][CH3:37])[O:25][C:26](=[O:31])[C:27]([F:28])([F:29])[F:30].[CH3:19][C+:20]([CH3:21])[CH3:22].[CH:12]1=[CH:11][C:10]2=[C:9]([CH:14]=[CH:13]1)[NH:8][CH:7]=[C:6]2[CH2:5][CH:4]([C:2](=[O:1])[OH:3])[NH:15][C:16](=[O:18])[OH:17]>>[H:23][C:20]([CH3:19])([CH3:21])[CH3:22].[CH3:37][CH2:36][Si:24]([CH2:32][CH3:33])([CH2:34][CH3:35])[O:25][C:26](=[O:31])[C:27]([F:29])([F:28])[F:30].[CH:12]1=[CH:11][C:10]2=[C:9]([CH:14]=[CH:13]1)[NH:8][CH:7]=[C:6]2[CH2:5][CH:4]([C:2](=[O:1])[OH:3])[NH:15][C:16](=[O:18])[OH:17] 23,24=20,23
[H:20][O:21]C(=O)C(F)(F)F.CC(C)(O)[O:10]C1=CC=C2C(C1)(CC(=O)N2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC>>[H:20][O+:10](C1=CC=C2C(C1)(CC(=O)N2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC)C(C)(C)O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C[C:20]([OH:10])([OH+:21]C)OC.[Cl-]>>C[C:20](=[OH+:10])OC.C[OH:21].[Cl-] 10=20;20,21=21
CCCCCC1=CC(=C[C:11](=[CH:10]1)[OH:12])O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=CC(=C[C:11](=[OH+:12])[CH:10]1[CH2:20]C=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20;12=11
[H:20][NH2+:21]C.[OH2:10]>>[H:20][OH2+:10].C[NH2:21] 10=20;20,21=21
[H:10][C:11](C)([CH+:20]C)C1=CC=CC=C1>>[H:10][CH:20](C)[C+:11](C)C1=CC=CC=C1 10,11=10,20
[H:20][P+:21](OC)(OC)Cl.C[OH:10]>>[H:20][OH+:10]C.CO[P:21](OC)Cl 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OCC)Br.[Br-:10]>>[H:20][Br:10].CCO[C:22]1=[C:21](C=CC=C1)Br 10=20;20,21=21,22
